US06518265B1
tert-Butyl 4-[2-[4-chloro-2-(4-methanesulfinylphenyl)-1H-imidazo[4,5-c]-quinolin-1-yl]ethyl]-1-piperidinecarboxylate
To a suspension of 0.63 g of tert-butyl 4-[2-[4-chloro-2-(4-methylthio-phenyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethyl]-1-piperidinecarboxylate in 18 ml of 1,4-dioxane, a solution of 0.38 g of sodium periodate in 6 ml of water was added dropwise, and the mixture was stirred at 50° C. for 13 hours. The reaction solution was concentrated, and the residue was purified by silica gel column chromatography using 1,2-dichloroethane—methanol (10:1) as an eluting solvent to give 0.47 g of a colorless solid. Recrystallization from a mixture of isopropanol and water gave colorless crystals having the melting point of from 183 to 186° C.

reactant | tert-butyl 4-[2-[4-chloro-2-(4-methylthio-phenyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethyl]-1-piperidinecarboxylate | 0.63 g | ClC1=NC=2C=CC=CC2C2=C1N=C(N2CCC2CCN(CC2)C(=O)OC(C)(C)C)C2=CC=C(C=C2)SC | C29H33ClN4O2S
reactant | sodium periodate | 0.38 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | 1,4-dioxane | 18 ml | O1CCOCC1 | C4H8O2
solvent | water | 6 ml | O | H2O
product | tert-Butyl 4-[2-[4-chloro-2-(4-methanesulfinylphenyl)-1H-imidazo[4,5-c]-quinolin-1-yl]ethyl]-1-piperidinecarboxylate | 0.47 g | ClC1=NC=2C=CC=CC2C2=C1N=C(N2CCC2CCN(CC2)C(=O)OC(C)(C)C)C2=CC=C(C=C2)S(=O)C | C29H33ClN4O3S
